US04920117
4,5-Dihydro-3H-isoxazolo[5,4,3-kl]acridine
3-Phenyl-4-oxo-4,5,6,7-tetrahydrobenz[1,2-d]isoxazole (6.0 g) was dissolved in 40 ml conc. H2SO4 and then dichloromethane (60 ml) was added. NaN3 (2.0 g) was added portionwise at such a rate that foaming could be controlled. After 90 minutes, the reaction mixture was poured into ice/water and conc. HCl was added until the precipitated amine sulfate dissolved. The dichloromethane layer was separated and the aqueous phase was washed with additional dichloromethane. The aqueous phase was made basic with 50% NaOH and ice (up to pH 1-4) and then with NaHCO3 (up to pH 8). The product was extracted into dichloromethane and then flushed over a short alumina column before concentration under reduced pressure. Recrystallization from EtOAc/hexane gave 1.85 g of product, m.p. 149°-150° C.

reactant | 3-Phenyl-4-oxo-4,5,6,7-tetrahydrobenz[1,2-d]isoxazole | 6.0 g | C1(=CC=CC=C1)C1=NOC2=C1C(CCC2)=O | C13H11NO2
reactant | dichloromethane | 60 ml | ClCCl | CH2Cl2
reactant | NaN3 | 2.0 g | [N-]=[N+]=[N-].[Na+]
reactant | HCl | Cl | ClH
solvent | H2SO4 | 40 ml | OS(=O)(=O)O | H2O4S
product | 4,5-Dihydro-3H-isoxazolo[5,4,3-kl]acridine | 1.85 g | N=1OC=2CCCC3=NC=4C=CC=CC4C1C23 | C13H10N2O
